US08022206B2
1-[2-Chloro-6-(trifluoromethyl)phenyl]propan-2-ol
To a solution of 1-chloro-3-(trifluoromethyl)benzene (1.0 g, 5.5 mmol) in THF (10.0 mL) was added 2.5 M of n-BuLi in hexane (2.2 mL) at −78° C. and stirred for 1 h. Propylene oxide (370 mg, 6.4 mmol) was added to the reaction mixture at −78° C. and slowly warmed to rt. The reaction mixture was stirred for an additional 30 min. The reaction mixture was quenched with sat. aq. NH4Cl and extracted with EtOAc. The organic layer was washed with brine, dried over anhydrous Na2SO4, and the solvent was removed under reduced pressure to give a yellow oil. The material was purified by silica gel chromatography using Hexane/EtOAc (80:20) as eluent to yield the desired product as a yellow oil. 1H NMR (CDCl3, 400 MHz): δ=1.33 (d, J=6.1 Hz, 3H), 1.40 (d, J=6.3 Hz, 1H), 3.08-3.22 (m, 2H), 4.21-4.33 (m, 1H), 7.29-7.34 (m, 1H), 7.58-7.64 (m, 2H).

reactant | 1-chloro-3-(trifluoromethyl)benzene | 5.5 mmol, 1.0 g | ClC1=CC(=CC=C1)C(F)(F)F | C7H4ClF3
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | Propylene oxide | 6.4 mmol, 370 mg | C1C(C)O1 | C3H6O
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
solvent | hexane | 2.2 mL | CCCCCC | C6H14
product | 1-[2-Chloro-6-(trifluoromethyl)phenyl]propan-2-ol | ClC1=C(C(=CC=C1)C(F)(F)F)CC(C)O | C10H10ClF3O
